US04643998
6-[4-(1-Imidazolylmethyl)-thien-2-yl]-3-oxo-2,3,4,5-tetrahydro-pyridazine
A mixture of 5.6 g of 4-[4-(1-imidazolylmethyl)-thien-2-yl]-4-oxobutyric acid, 1.1 g hydrazine hydrate and 50 ml water was stirred for 2 hours at 90° C. After cooling, the precipitated solid was filtered off, washed with water and dried.

reactant | 4-[4-(1-imidazolylmethyl)-thien-2-yl]-4-oxobutyric acid | 5.6 g | N1C(=NC=C1)CC=1C=C(SC1)C(CCC(=O)O)=O | C12H12N2O3S
reactant | hydrazine hydrate | 1.1 g | O.NN
solvent | water | 50 ml | O | H2O
product | 6-[4-(1-Imidazolylmethyl)-thien-2-yl]-3-oxo-2,3,4,5-tetrahydro-pyridazine | N1C(=NC=C1)CC=1C=C(SC1)C=1CCC(NN1)=O | C12H12N4OS
